US07622583B2
AcOH (30 mL) and iron powder (5 g) were charged into a round bottom flask equipped with a magnetic stirring bar and warmed to 80° C. A solution of crude 5-chloro-2-(2-fluoro-6-methoxy-phenoxy)-3-nitro-pyridine in AcOH was added slowly into the mixture, keeping the temperature under 85° C. The reaction mixture was then cooled to room temperature, diluted with EtOAc, and filtered through a pad of Celite. The filtrate was concentrated under reduced pressure and the residue was partitioned between NaHCO3 and EtOAc. The organic portion was separated and the aqueous portion was extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide 5-chloro-2-(2-fluoro-6-methoxy-phenoxy)-pyridin-3-ylamine (3.56 g) as a colorless powder.

reactant | 5-chloro-2-(2-fluoro-6-methoxy-phenoxy)-3-nitro-pyridine | ClC=1C=C(C(=NC1)OC1=C(C=CC=C1OC)F)[N+](=O)[O-] | C12H8ClFN2O4
solvent | AcOH | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 5 g | [Fe] | Fe
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 5-chloro-2-(2-fluoro-6-methoxy-phenoxy)-pyridin-3-ylamine | 3.56 g | ClC=1C=C(C(=NC1)OC1=C(C=CC=C1OC)F)N | C12H10ClFN2O2
